data/rdb19/train.csv
rxn,smiles,ea
1441,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])[H:6]>>[O:1]([C:2]([O:3][H:24])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])[H:23])[C:14](=[O:15])[O:16][H:25])[H:6],16.9473099806346
4687,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][O:19][C:18]([C:17]([H:23])([H:24])[H:25])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],50.47173032310093
4592,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17](=[C:18][c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:27])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],22.818362477584746
252,[C:1]([C:2]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([C:11]([H:13])([H:14])[H:15])[H:12])([H:3])[H:4]>>[C:1]1([H:3])([H:4])[C:2]([H:5])([H:6])[O:7][O:8]1.[C:9]([H:10])([C:11]([H:13])([H:14])[H:15])[H:12],58.05705484581995
4329,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])[H:10].[H:9][C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35],28.35198214114644
1705,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:18]([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],70.24472636170685
3851,[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([C:16]([H:17])[H:18])[C:19](=[O:20])[O:21][H:28])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])[H:7].[H:6][C:16]([C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[C:19](=[O:20])[O:21][H:28])([H:17])[H:18],22.373941035475585
3697,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:23]1([H:37])[C:22]([H:36])=[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]1[H:38])([H:10])[H:11])([H:7])([H:8])[H:9],21.42936340614688
5419,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])[C:8]1[H:16])[H:11])([H:9])[H:10],20.765662983234503
3602,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:24]1([H:38])[C:23]([H:37])[C:22]([H:36])=[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]1[H:39])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.739348125644028
2532,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22](=[C:23]([H:30])[H:31])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:22]([C:21]([C:20]([H:24])([H:25])[H:26])([H:27])[H:28])([C:23]([H:30])[H:31])[H:29])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],18.22181445680326
